US08729095B2
At room temperature, to a mixed solvent solution of 5-methyl-3-nitropyridin-2-ol (5.0 g) in tetrahydrofuran (200 ml) and methanol (200 ml) was added 10% palladium carbon (0.5 g), followed by stirring for 24 hours under a hydrogen atmosphere. The reaction solution was filtered through Celite, and then the filtrate was concentrated under reduced pressure to afford 3-amino-5-methylpyridin-2-ol (4.03 g).

reactant | 5-methyl-3-nitropyridin-2-ol | 5.0 g | CC=1C=C(C(=NC1)O)[N+](=O)[O-] | C6H6N2O3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium carbon | 0.5 g | [C].[Pd]
product | 3-amino-5-methylpyridin-2-ol | 4.03 g | NC=1C(=NC=C(C1)C)O | C6H8N2O
